US06696573B1
3′-Nitroacetophenone (2.00 g) was dissolved in tetrahydrofuran (24.2 ml), and sulfuryl chloride (4.90 g) was dropwise added thereto at 22° C. over 15 minutes. After stirring for 2 hours, water (150 ml) was added to the reaction mixture and stirred for 1 hour. Ethyl acetate was added, and the separated organic layer was washed with aqueous saturated sodium bicarbonate/aqueous saturated sodium chloride mixed solvent. After drying over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. Diethyl ether was added to the residue and stirred, and the precipitated crystal was then filtered and dried under reduced pressure to yield the desired 2-chloro-3′-nitroacetophenone (1.41 g; 58.3%).

reactant | 3′-Nitroacetophenone | 2.00 g | [N+](=O)([O-])C=1C=C(C=CC1)C(C)=O | C8H7NO3
reactant | sulfuryl chloride | 4.90 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | water | 150 ml | O | H2O
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 24.2 ml | O1CCCC1 | C4H8O
product | 2-chloro-3′-nitroacetophenone | 1.41 g, 58.3% | ClCC(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C8H6ClNO3
